US07592373B2
4.277.b. 4-[2-(2,6-dimethylpiperidin-1-yl)ethoxy]-3-methoxyphenylamine
Prepared analogously to Example 3.1.b. from 0.84 g (2.72 mmol) of 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]-2,6-dimethylpiperidine. Yield: 0.65 g (86% of theory); C16H26N2O2 (M=278.39); calc.: molecular ion peak (M+H)+: 279; found: molecular ion peak (M+H)+: 279; Rf value: 0.1 (silica gel, dichloromethane/methanol (9:1)).

reactant | 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]-2,6-dimethylpiperidine | 2.72 mmol, 0.84 g | COC1=C(OCCN2C(CCCC2C)C)C=CC(=C1)[N+](=O)[O-] | C16H24N2O4
solvent | dichloromethane methanol | ClCCl.CO
product | 4-[2-(2,6-dimethylpiperidin-1-yl)ethoxy]-3-methoxyphenylamine | CC1N(C(CCC1)C)CCOC1=C(C=C(C=C1)N)OC | C16H26N2O2
